* source BJT
V_V1         N00215 0 5Vdc
V_V2         N00208 0  
+PULSE 0 5V 100n 2n 2n 2u 4u
Q_Q1         N00200 N00204 0 Q2N2222
R_R1         N00208 N00204  10k TC=0,0 
R_R2         N00200 N00215  1k TC=0,0 
