* source FILTERS
R_R1         N00128 N00139  3.3k TC=0,0 
C_C1         0 N00139  0.01u  TC=0,0 
V_V1         N00128 0 DC 0Vdc AC 10Vac 
V_V2         N00483 0 DC 0Vdc AC 10Vac 
R_R2         0 N00490  3.3k TC=0,0 
C_C2         N00483 N00490  0.01u  TC=0,0 
