* source MOSFET
M_M1         N00139 N00128 0 0 MbreakN           
R_R1         N00139 N00143  1k TC=0,0 
V_V1         N00128 0 5Vdc
V_V2         N00143 0 5Vdc
